US08008487B2
2-(4-Morpholin-4-yl-phenyl)ethylamine (Compound 206)
Step 2 A solution of 2-[2-(4-morpholin-4-ylphenyl)ethyl]-1H-isoindole-1,3(2H)-dione (193 mg, 0.57 mmol) and hydrazine monohydrate (70 mg, 1.4 mmol) in ethanol (6 ml) was heated at reflux for 2 hr. The reaction was cooled to ambient temperature, and the solvent was removed in vacuo. The residue was taken up in ether, washed with 2M aqueous sodium hydroxide, and then extracted with 1M aqueous hydrochloric acid (2×10 mL). The acidic extracts were combined and the pH raised to 10-11 with 4M aqueous sodium hydroxide. This was then extracted thrice with ether, the organics combined, and dried (Na2SO4). Filtration and removal of solvent in vacuo left a brown oil, 110 mg, 0.57 mmol, 100 percent crude yield. The material was used without further purification.

reactant | 2-[2-(4-morpholin-4-ylphenyl)ethyl]-1H-isoindole-1,3(2H)-dione | 0.57 mmol, 193 mg | N1(CCOCC1)C1=CC=C(C=C1)CCN1C(C2=CC=CC=C2C1=O)=O | C20H20N2O3
reactant | hydrazine monohydrate | 1.4 mmol, 70 mg | O.NN
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 2-(4-Morpholin-4-yl-phenyl)ethylamine | N1(CCOCC1)C1=CC=C(C=C1)CCN | C12H18N2O
